US03933804
3.4 g (0.06 mol) of pulverised potassium hydroxide are added to a solution of 8.2 g (0.06 mol) of p-hydroxy-acetophenone and 14.6 g (0.09 mol) of 1-chloro-5-isopropoxy-2-pentene in 100 cc of 1,2-dimethoxyethane. The mixture is stirred at 60° during the course of 24 hours and is subsequently filterd. The filtrate is evaporated at reduced pressure, the residue is taken up in ether, and the ether solution is washed with saturated salt solution. The organic phase is dried with sodium sulphate and evaporated. The residue is chromatographed with hexane/ethyl acetate 4 : 1 on silica gel and then the 4'-(5-isopropoxy-2pentenyloxy)-acetophenone is obtained as colourless oil. nD20 = 1.5240.

reactant | potassium hydroxide | 0.06 mol, 3.4 g | [OH-].[K+]
reactant | p-hydroxy-acetophenone | 0.06 mol, 8.2 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 1-chloro-5-isopropoxy-2-pentene | 0.09 mol, 14.6 g | ClCC=CCCOC(C)C | C8H15ClO
solvent | 1,2-dimethoxyethane | 100 cc | COCCOC | C4H10O2
product | 4'-(5-isopropoxy-2pentenyloxy)-acetophenone | C(C)(C)OCCC=CCOC1=CC=C(C=C1)C(C)=O | C16H22O3
